US04009170
In a manner similar to that of Example 4, condensation of 1-hydrazino-3,4-dihydroisoquinoline (9.4 g.) and cyclohexanone (6.3 g.) and treatment of the reaction mixture with sulfuric acid gave an oil, which was crystallized, then recrystallized, from isopropyl alcohol-ether, affording 1-(2-cyclohexylidenehydrazino)-3,4-dihydroisoquinoline [(I: X=X'=CH2 (CH2)4C,] Y=Y'=Z=Z'=H) sulfate (15.3 g., m.p. 139°-141° C. with decomposition).

reactant | 1-hydrazino-3,4-dihydroisoquinoline | 9.4 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | cyclohexanone | 6.3 g | C1(CCCCC1)=O | C6H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(2-cyclohexylidenehydrazino)-3,4-dihydroisoquinoline | C1(CCCCC1)=NNC1=NCCC2=CC=CC=C12 | C15H19N3
